US08754079B2
231.3 4-[2-((1S,3S)-3-Acetylamino-cyclopentyloxy)-4-fluoro-phenylamino]-5-methyl-thieno[2,3-d]pyrimidine-6-carboxylic acid (2-hydroxy-ethyl)-amide
Synthesized analogously to example 225.3 from 4-[2-((1S,3S)-3-acetylamino-cyclopentyloxy)-4-fluoro-phenylamino]-5-methyl-thieno[2,3-d]pyrimidine-6-carboxylic acid (111 mg) and 2-aminoethanol (18 μl). The reaction mixture was concentrated, the residue was partitioned between DCM and water and the organic layer was dried and concentrated again. The crude was purified by chromatography to give the desired product.

reactant | 4-[2-((1S,3S)-3-acetylamino-cyclopentyloxy)-4-fluoro-phenylamino]-5-methyl-thieno[2,3-d]pyrimidine-6-carboxylic acid | 111 mg | C(C)(=O)N[C@@H]1C[C@H](CC1)OC1=C(C=CC(=C1)F)NC=1C2=C(N=CN1)SC(=C2C)C(=O)O | C21H21FN4O4S
reactant | 2-aminoethanol | 18 μl | NCCO | C2H7NO
product | 4-[2-((1S,3S)-3-Acetylamino-cyclopentyloxy)-4-fluoro-phenylamino]-5-methyl-thieno[2,3-d]pyrimidine-6-carboxylic acid (2-hydroxy-ethyl)-amide | OCCNC(=O)C1=C(C2=C(N=CN=C2NC2=C(C=C(C=C2)F)O[C@@H]2C[C@H](CC2)NC(C)=O)S1)C | C23H26FN5O4S
